Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Ms. ___ is an ___ ___ woman with a remote 
history of smoking, as well as hypertension, hyperlipidemia, CAD 
s/p PCI and two subsequent NSTEMIs, and asthma who is presenting 
from home with an acute episode of worsening dyspnea, chest 
pain, and sweating that did not relent with a nebulizer 
treatment. 

Ms. ___ was previously diagnosed with asthma at the age of 
___, without PFTs as she was unable to particpate adequately in 
the study. She has since had an estimated 4 hospitalization and 
numerous visits to the ED for exacerbations, but has never been 
intubated or required admission to the MICU. Ms. ___ was 
most recently hospitalized with dyspnea in ___ of this year and 
treated for an asthma exacerbation with bronchodilators and a 
course of steroids. Since that hospitalization, she has had 
worsening of her symptoms. She has had daily awakenings around 4 
am screaming out that she cannot breathe. Her daughter, who 
lives upstairs from her, runs down every morning to administer a 
nebulizer, which typically alleviates her symptoms. She is using 
her nebulizers ___ times daily since her prior hospitalization.

She notes that she was at her adult daycare this morning when 
she had an acute episode of worsening shortness of breath and 
chest tightness, accompanied by chest pain and diaphoresis. The 
___ center called her grand-daughter who came immediately. She 
was administered a nebulizer treatment, but her breathing did 
not improve so she was brought to the ED by ambulance. She does 
report a non-productive dry cough for the past few weeks. She 
denies any recent illness, sick contacts, fevers, chills, or 
exposure to environmental allergens. She reports that she has 
been taking her medications as prescribed, although her 
granddaughter is the only one who knows the details of what she 
is currently taking. In discussion with her reported pharmacist, 
it does appear she may not have refilled many of her asthma 
medications as scheduled (details below).

Of note, during her recent hospitalization, she had an episode 
of chest pain and was found to have an NSTEMI with a TnT peak of 
0.37. She was started on a heparin drip and catheterized, but 
found to have no new thrombis and no intervention was performed. 
Since her discharge, she denies any episodes of chest pain at 
home. Today, she reports onset of substernal chest pain that 
felt more like a squeezing tightness and was distinct from the 
pain she had with her previous MIs.  

In the ED, she was initially found to be in moderate distress, 
speaking in short sentences with inspiratory rhonchi on 10L NRB. 
Initial vitals were HR 76, BP 126/60, RR 28, and O2 saturation 
of 100% on 10L. She received albuterol nebulizers x3, 
ipratropium nebulizers x4, and 125 mg of methylprednisolone. She 
also received one dose of azithromycin 500 mg IV.

Vitals prior to transfer were T 97.9, HR 91, BP 123/61, RR 22 
and O2 saturation of 95% on RA. 

Currently, she reports that her breathing feels easier. Her 
daughter says that her breathing looks like how it normally 
looks since her last admission. She denies any chest pain at the 
moment.  
 
Past Medical History:
- Asthma: diagnosed at age ___ no PFTs as she was unable to 
participate in the exam; 4 lifetime hospitalizations, most 
recently two months ago; no history of intubations or MICU 
admissions.
- Coronary artery disease: s/p PCI to LCx and RCA in ___ and 
subsequent NSTEMI in ___ and ___.
- Hypertension
- Hyperlipidemia
- Peripheral vascular disease with infrapopliteal disease.
- Adjustment disorder with depressed mood
- Cataract s/p repair (R ___ L ___
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter).
 
Physical Exam:
ADMISSION PHYSICAL:
===================
Vitals: 97.2 88 135/54 22 98% on RA subjective dyspnea ___
General: Frail, elderly woman. Alert, oriented, laying 
comfortably in bed and in no acute distress  
HEENT: Normocephalic, atraumatic. PERRL, sclerae anicteric. MMM, 
oropharynx clear, 1 cm x 2 cm echymosis on L anterior tongue.
Neck: supple, JVP not elevated, no LAD  
Lungs: Moderately tachypneic, audible wheezing with breaths, but 
speaking in full sentences. Bilateral wheezes throughout 
anteriorly and posteriorly. Significantly diminished breath 
sounds to mid-lung bilaterally. No crackles.
CV: Normal rate, regular rhythm. Normal S1 and S2, with no 
murmurs, rubs, or gallops. JVP < 5 cmH2O. 
Abdomen: Bowel sounds present. Soft, mildly distended abdomen. 
No typani to percussion. Mild diffuse tenderness to palpation. 
No hepatosplenomegaly or palpable masses.  
Ext: Bilateral hand contractures (L>R). 2+ radial and DP pulses 
bilaterally. Trace pitting edema to ankles bilaterally. No 
clubbing. No cyanosis. Decreased muscle tone in UE and ___.

DISCHARGE PHYSICAL:
===================
Vitals:  98 69 119/50 18 95% on RA 
I/O: MN: ___ ___: 120/BRP; weight 55.1 kg
Exam:  
GENERAL - Alert and oriented, thin, frail woman, well-appearing 
in NAD  
HEENT - sclerae anicteric, MMM  
HEART - RRR, nl S1-S2, no MRG  
LUNGS - Breathing comfortably without use of accessory muscles. 
Mild wheezes heard throughout. Decreased breath sounds in 
bilateral bases, but moving more air than yesterday. 
ABDOMEN - NABS, soft/NT/ND, no masses or HSM  
EXTREMITIES - WWP, no c/c, no edema, 2+ peripheral pulses  

 
Pertinent Results:
ADMISSION LABS: ___ 9:15 AM
===============
WBC-10.7 RBC-4.02* Hgb-12.6 Hct-38.9 MCV-97 MCH-31.3 MCHC-32.3 
RDW-12.8 Plt ___
Neuts-85.8* Lymphs-6.4* Monos-3.7 Eos-4.0 Baso-0.2
___ PTT-29.6 ___
Glucose-141* UreaN-13 Creat-1.1 Na-138 K-4.7 Cl-102 HCO3-25 
AnGap-16
Calcium-9.2 Phos-4.3 Mg-2.0
proBNP-942*
cTropnT-<0.01
___ pO2-33* pCO2-55* pH-7.28* calTCO2-27 Base XS--2
Type-ART pO2-215* pCO2-41 pH-7.35 calTCO2-24 Base XS--2
Lactate-2.2*

IMPORTANT LABS:
===============
___ 09:20PM BLOOD CK-MB-11* cTropnT-0.01

DISCHARGE LABS: ___ 6:00 AM
===============
WBC-12.9* RBC-3.77* Hgb-11.9* Hct-35.9* MCV-95 MCH-31.6 
MCHC-33.2 RDW-12.6 Plt ___
Glucose-130* UreaN-25* Creat-1.2* Na-131* K-5.1 Cl-98 HCO3-23 
AnGap-15
Calcium-9.2 Phos-3.5 Mg-2.2

IMAGING:
================
ECG Study Date of ___  8:58:20 AM 
Sinus rhythm. Left ventricular hypertrophy with secondary 
repolarization 
abnormalities. Compared to the previous tracing anterior T wave 
inversions 
have resolved. 
    Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
74 180 86 ___ 85 
 
CXR ___
FINDINGS:  
Cardiac silhouette size remains moderately enlarged. The aorta 
is tortuous. Mediastinal and hilar contours are otherwise 
unchanged. There is no pulmonary vascular congestion. Streaky 
bibasilar opacities likely reflect atelectasis. No large pleural 
effusion or pneumothorax is identified.  No acute osseous 
abnormalities seen. 
IMPRESSION:  
Mild bibasilar atelectasis 

 
Brief Hospital Course:
PRIMRARY REASON FOR ADMISSION:
This is an ___ ___ woman with a remote history 
of smoking, as well as hypertension, hyperlipidemia, CAD s/p PCI 
and two subsequent NSTEMIs, and a pre-existing diagnosis of 
asthma who is presenting from home with an acute on chronic 
episode of worsening dyspnea and chest tightness.

ACTIVE ISSUES:
# Acute on chronic dyspnea: On presentation to the ED, she was 
tachypneic and wheezing persistently, and required a NRB. After 
albuterol and methylpred in the ED, however, by arrival to the 
floor she had no oxygen requirement. Her chest xray showed no 
pneumonia or pleural effusions. Although her asthma diagnosis is 
unusual (diagnosed at age ___ without PFTs), per the patient and 
her family this presentation is similar to prior episodes that 
improved with nebulizers and oral steroids. In discussion with 
her pharmacy, it appears she has not refilled many of her asthma 
medications as scheduled. She was thus started on standing 
albuterol nebs q6h with q2hr prn and a 5-day course of oral 
prednisone 40 mg, She was restarted on her home Advair and 
Spiriva with directions given to her family about how these 
should be taken. She was also given new prescriptions for these 
medications and encouraged to schedule a follow up Pulmonary 
appointment for next week.

# Chest pain: Patient has a significant cardiac history and a 
recent NSTEMI only two months ago. She initially reported chest 
pain but felt that it was different from her heart attack. 
Troponins were negative x2 and EKG remained unchanged. She had 
no recurrent episodes of chest discomfort. She was continued on 
asa, Plavix, metoprolol, atorvastatin.

CHRONIC ISSUES:
# Coronary artery disease: See above. She was continued on her 
home asa, Plavix, metoprolol and atorvastatin.

# Hypertension: Stable. Continued home metoprolol, losartan and 
isosorbide mononitrate.

# Hyperlipidemia. Restarted home atorvastatin.

TRANSITIONAL ISSUES:
====================
- She may benefit from close follow with pulmonology.
- Given her recent NSTEMI, she would also benefit from 
___ rehab
- She will be discharged on prednisone 40mg for a 5 day course 
(last day ___.
- She would benefit from continued teaching about how to take 
her medications.
- Patient complains of ongoing urinary stress incontinence
- Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing SOB 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO DAILY per pharmacy, not taking
5. Clopidogrel 75 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Isosorbide Mononitrate (Extended Release) 30 mg PO QPM 
8. Mirtazapine 15 mg PO HS 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. Senna 8.6 mg PO HS:PRN constipation 
11. Benzonatate 100 mg PO TID:PRN cough 
12. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID, not 
taking
13. Guaifenesin ___ mL PO Q6H:PRN cough 
14. Albuterol Inhaler 2 PUFF IH Q4H:PRN asthma, not taking
15. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
16. Metoprolol Succinate XL 50 mg PO DAILY 
17. multivitamin with iron 1 tablet  oral DAILY 
18. Nitroglycerin SL 0.3 mg SL PRN chest pain 
19. Tiotropium Bromide 1 CAP IH DAILY, per pharmacy, not taking
20. Losartan Potassium 25 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing SOB 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 neb every four (4) 
hours Disp #*30 Vial Refills:*0
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO DAILY 
5. Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0
6. Clopidogrel 75 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/Dose 1 
puff twice a day Disp #*2 Disk Refills:*0
9. Isosorbide Mononitrate (Extended Release) 30 mg PO QPM 
10. Losartan Potassium 25 mg PO DAILY 
11. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
12. Senna 8.6 mg PO HS:PRN constipation 
13. Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 cap 
daily Disp #*30 Capsule Refills:*0
14. Albuterol Inhaler 2 PUFF IH Q4H:PRN asthma 
RX *albuterol sulfate 90 mcg 2 puffs every four (4) hours Disp 
#*2 Inhaler Refills:*0
15. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
16. Guaifenesin ___ mL PO Q6H:PRN cough 
17. Metoprolol Succinate XL 50 mg PO DAILY 
18. Mirtazapine 15 mg PO HS 
19. multivitamin with iron 1 tablet  oral DAILY 
20. Nitroglycerin SL 0.3 mg SL PRN chest pain 
21. PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*10 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Asthma exacerbation

SECONDARY DIAGNOSES:
Coronary artery disease
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking part in your care at ___! You were 
admitted on ___ with worsening shortness of breath and 
wheezing thought to be from an asthma exacerbation. It sounded 
like your asthma has not been very well-controlled at home since 
you are waking up every morning short of breath and needing to 
use the nebulizer often. We treated you with frequent albuterol 
nebulizers to help you breathe more easily. We also started you 
on a short course of steroid medications to help decrease the 
inflammation in your lungs. You will continue to take the 
steroid medication when at home.

While you were here, we restarted your asthma medications, 
including Advair and Spiriva. These medications are especially 
important to help prevent future asthma attacks. It is very 
important to take all of your asthma medications as prescribed 
to avoid more of these exacerbations. It is also important to 
speak to your pulmonologist about your asthma to see if there 
might be something that would work better for you.

Thank you for allowing us to take part in your care at ___!

Best,

Your ___ medical team
 
Followup Instructions:
___